US08541584B2
3.4 0.09 ml (0.63 mmol) of trimethylsilylacetylene and 0.12 ml (0.84 mmol) of triethylamine are added successively to a suspension, kept under argon, of 6 mg (0.009 mmol) of bis(triphenylphosphine)palladium dichloride, 3 mg (0.016 mmol) of copper(I) iodide and 178 mg (0.42 mmol) of tert-butyl 3-iodo-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate in 2 ml of THF, and the mixture is stirred at room temperature for one hour under argon. Then, for the removal of excess trimethylsilylacetylene, argon is passed through the reaction mixture for 5 minutes. 0.45 ml (0.45 mmol) of a 1 M solution of tetrabutylammonium fluoride in THF are subsequently added, and the reaction mixture is stirred at room temperature for 30 minutes. A solution of 58 mg (0.42 mmol) of benzyl azide in 2 ml of methanol is then added, and the reaction mixture is stirred at room temperature for 48 hours. The reaction mixture is adsorbed onto kieselguhr and chromatographed on a silica-gel column with petroleum ether/ethyl acetate as eluent, giving tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate as colourless crystals; ESI 456.

reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 0.84 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 3-iodo-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate | 0.42 mmol, 178 mg | IC1=CN(C2=NC=C(C=C21)C=2C=NN(C2)C)C(=O)OC(C)(C)C | C16H17IN4O2
reactant | benzyl azide | 0.42 mmol, 58 mg | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
catalyst | bis(triphenylphosphine)palladium dichloride | 0.009 mmol, 6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.016 mmol, 3 mg | [Cu]I
product | tert-butyl 3-(1-benzyl-1H-1,2,3-triazol-4-yl)-5-(1-methyl-1H-pyrazol-4-yl)pyrrolo[2,3-b]pyridine-1-carboxylate | C(C1=CC=CC=C1)N1N=NC(=C1)C1=CN(C2=NC=C(C=C21)C=2C=NN(C2)C)C(=O)OC(C)(C)C | C25H25N7O2
